US07868014B2
Add titanium (IV) isopropoxide (2.8 mL, 9.46 mmol) dropwise to a stirred mixture of N-(1-benzyl-3-methylpyrrolidin-3-yl)-acetamide (2 g, 8.6 mmol) and diphenylsilane (10 mL). Stir overnight at room temperature under nitrogen. Pour into saturated aqueous sodium hydrogen carbonate and extract with chloroform. Combine the organic layers and wash with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate. Add methanol and filter off the white precipitate. Add bulk Isolute sorbent SCX-2 silica (20 g) and stir for 2 h. Filter off the silica, wash with methanol and with 2 N ammonia in methanol. Concentrate to give 1-benzyl-3-methylpyrrolidin-3-ylamine which may be used in the next step without further purification (1.31 g, 86%). 1H NMR (300 MHz, CDCl3) δ 7.22-7.35 (5H, m), 3.59 (2H, d, J=2.26 Hz), 2.83 (1H, td, J=8.67, 5.27 Hz), 2.37-2.51 (2H, m), 2.30 (1H, d, J=9.04 Hz), 1.76-1.86 (1H, m), 1.66-1.74 (3H, m), 1.24 (3H, s), MS (ES): m/z=191 [M+H].

reactant | N-(1-benzyl-3-methylpyrrolidin-3-yl)-acetamide | 8.6 mmol, 2 g | C(C1=CC=CC=C1)N1CC(CC1)(C)NC(C)=O | C14H20N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | titanium (IV) isopropoxide | 9.46 mmol, 2.8 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | diphenylsilane | 10 mL | C1(=CC=CC=C1)[SiH2]C1=CC=CC=C1 | C12H12Si
product | 1-benzyl-3-methylpyrrolidin-3-ylamine | C(C1=CC=CC=C1)N1CC(CC1)(C)N | C12H18N2
